US07432293B2
a) 3-[3-(4-Chloro-phenyl)-isoxazol-5-yl]-benzoic acid ethyl ester
In a 10 ml round flask, 500 mg (2.9 mmol) of 3-ethynyl-benzoic acid ethyl ester and 652 mg (3.5 mmol, 1.2 eq.) of 4-chloro-N-hydroxy-benzenecarboximidoyl chloride are dissolved in 4 ml of CHCl3. To this solution, 11 mg (0.14 mmol, 0.05 eq.) of pyridine and 290 mg (2.9 mmol) of triethyl amine are added at 0° C. under a nitrogen atmosphere. The orange solution is stirred under warming to room temperature for 20 h. The suspension is filtered and the solution concentrated in vacuo. Chromatographical purification (100 g SiO2; eluent: hexane/ethyl acetate 9:1) yields the title compound as a white solid. Mass spectrum: m/z (M+H)+: 328.2; 330.2

reactant | 3-ethynyl-benzoic acid ethyl ester | 2.9 mmol, 500 mg | C(C)OC(C1=CC(=CC=C1)C#C)=O | C11H10O2
reactant | 4-chloro-N-hydroxy-benzenecarboximidoyl chloride | 3.5 mmol, 652 mg, 1.2 eq. | ClC1=CC=C(C=C1)C(=NO)Cl | C7H5Cl2NO
reactant | pyridine | 0.14 mmol, 11 mg, 0.05 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethyl amine | 2.9 mmol, 290 mg | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[3-(4-Chloro-phenyl)-isoxazol-5-yl]-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)C1=CC(=NO1)C1=CC=C(C=C1)Cl)=O | C18H14ClNO3
